US04324855
(1) N-Hexadecylnicotinamide
30.7 g of cetylamine and 33.2 g of pyridine were dispersed in 200 ml of acetonitrile, and 25 g of nicotinic acid chloride hydrochloride was added thereto under cooling with water. After reacting for 3 hours at 55° C., 800 ml of water was added thereto. The thus formed crystals were collected by filtration. Recrystallization from 500 ml of ethanol yielded 36.3 g of the end product. m.p. 85°-87° C.

reactant | cetylamine | 30.7 g | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | pyridine | 33.2 g | N1=CC=CC=C1 | C5H5N
reactant | nicotinic acid chloride hydrochloride | 25 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | water | O | H2O
reactant | water | 800 ml | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-Hexadecylnicotinamide | 36.3 g | C(CCCCCCCCCCCCCCC)NC(C1=CN=CC=C1)=O | C22H38N2O
